US08859541B2
2-amino-N-[4-chloro-6-(2-phenylethynyl)pyridin-2-yl]propanamide
A mixture of tert-butylN-[1-[[4-chloro-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate D3a (20 mg, 0.05 mmol) and DCM:TFA (9:1, 1.8 ml) is stirred at RT for 90 minutes. The mixture is diluted with DCM and extracted with a saturated aqueous solution of NaHCO3. The combined organic layers are dried over MgSO4 and concentrated in vacuo. The product is purified by RP HPLC. Yield: 14 mg (93%). HPLC-MS: M+H=300; tR=1.92 min (*Method—1).

reactant | tert-butylN-[1-[[4-chloro-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate | C(C)(C)(C)OC(NC(C(=O)NC1=NC(=CC(=C1)Cl)C#CC1=CC=CC=C1)C)=O | C21H22ClN3O3
reactant | DCM TFA | 1.8 ml | C(Cl)Cl.C(=O)(C(F)(F)F)O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-amino-N-[4-chloro-6-(2-phenylethynyl)pyridin-2-yl]propanamide | NC(C(=O)NC1=NC(=CC(=C1)Cl)C#CC1=CC=CC=C1)C | C16H14ClN3O
